US09163027B2
2-{[2-({5,7-Diethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}oxy)ethyl](phenyl)amino}ethan-1-ol
The title compound was prepared according to the experimentals described for Example 14 above from 2-methanesulfonyl-5,7-diethyl-[1,2,4]-triazolo[1,5-a]pyrimidine and N-phenyldiethanolamine in 43% yield. EM (calc.): 355.2; MS (ESI) m/e: 356.3 (M+H)+.

reactant | 2-methanesulfonyl-5,7-diethyl-[1,2,4]-triazolo[1,5-a]pyrimidine | CS(=O)(=O)C1=NN2C(N=C(C=C2CC)CC)=N1 | C10H14N4O2S
reactant | N-phenyldiethanolamine | C1(=CC=CC=C1)N(CCO)CCO | C10H15NO2
product | 2-{[2-({5,7-Diethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}oxy)ethyl](phenyl)amino}ethan-1-ol | 43% yield | C(C)C1=NC=2N(C(=C1)CC)N=C(N2)OCCN(CCO)C2=CC=CC=C2 | C19H25N5O2
